US06177449B1
a) N-[6-Benzyloxy-2,2-dimethylchroman-4-yl]-N-methylmethanesulfonamide
8.9 g (25 mmol) of 6-benzyloxy-4-(methylsulfonyl)amino-2,2-dimethylchroman (Ex. 1 e) were introduced in portions at 10° C. into a suspension of 1.2 g (30 mmol) of sodium hydride (60 percent dispersion) in 75 ml of DMA. After stirring at RT for 2 h, 1.9 ml (30 mmol) of methyl iodide were added dropwise, the temperature rising to 50° C. The mixture was then heated to 50° C. for 2 h, concentrated in vac., the residue was treated with water, the resinous product was taken up with EA, the solution was dried and concentrated, and the residue was chromatographed on silica gel using n-heptane/EA (2:1). 7.4 g of product were crystallized from appropriate fractions using petroleum ethendusopropyl ether (1:1), m.p. 114-116° C.

reactant | 6-benzyloxy-4-(methylsulfonyl)amino-2,2-dimethylchroman | 25 mmol, 8.9 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)NS(=O)(=O)C | C19H23NO4S
reactant | sodium hydride | 30 mmol, 1.2 g | [H-].[Na+]
reactant | methyl iodide | 30 mmol, 1.9 ml | CI | CH3I
solvent | DMA | 75 ml | CC(=O)N(C)C | C4H9NO
product | N-[6-Benzyloxy-2,2-dimethylchroman-4-yl]-N-methylmethanesulfonamide | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)N(S(=O)(=O)C)C | C20H25NO4S
